US03950525
4-Diethylamino-6-(5-acetylamino-2-furyl)pyrimidine hydrochloride
To a mixture of 2.62 g. (0.01 mole) of 4-diethylamino-6-(5-nitro-2-furyl)pyrimidine and aluminum amalgam, prepared from 4.0 g. of aluminum turnings, in 60 ml. of diethyl ether is added 4 ml. of water. Acetic anhydride (2.0 g.; 0.02 mole) is added dropwise during the ensuing reaction which is maintained by heating the reaction vessel in a warm water bath. The ether is filtered and the filtrate dried over sodium sulfate. Removal of the solvent under reduced pressure provides the crude product. The residue is dissolved in ethyl acetate and treated with gaseous hydrogen chloride until a precipitate no longer forms. The resulting hydrochloride salt is further purified by several recrystallizations form methanol/hexane.

reactant | 4-diethylamino-6-(5-nitro-2-furyl)pyrimidine | 0.01 mole | C(C)N(C1=NC=NC(=C1)C=1OC(=CC1)[N+](=O)[O-])CC | C12H14N4O3
reactant | aluminum | [Al] | Al
reactant | Acetic anhydride | 0.02 mole, 2.0 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-Diethylamino-6-(5-acetylamino-2-furyl)pyrimidine hydrochloride | Cl.C(C)N(C1=NC=NC(=C1)C=1OC(=CC1)NC(C)=O)CC | InChI=1S/C14H18N4O2.ClH/c1-4-18(5-2)13-8-11(15-9-16-13)12-6-7-14(20-12)17-10(3)19;/h6-9H,4-5H2,1-3H3,(H,17,19);1H
